US07265144B2
3-Aminocrotonitrile (2.00 g, 24.4 mmol) was added to a stirred solution of (2-methylphenyl)hydrazine hydrochloride (3.67 g, 23.1 mmol) in 1 M hydrochloric acid (20 mL). The reaction was heated (100° C.) for 18 h and then cooled to rt. The solution was adjusted to pH>12 using 1 M aqueous sodium hydroxide. The mixture was extracted with dichloromethane (3×20 mL), and then the combined organic extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography of the residue over silica gel using 25-50% ethyl acetate/hexane afforded 3-methyl-1-(2-methylphenyl)-1H-pyrazol-5-amine (3.97 g, 87%) as an orange oil. 1H NMR (300 MHz, acetone-d6) δ 7.29 (m, 4H), 5.32 (s, 1H), 2.12 (s, 3H), 2.08 (s, 3H); ES-MS m/z 188.2 (MH+), HPLC RT (min) 0.79.

reactant | 3-Aminocrotonitrile | 24.4 mmol, 2.00 g | C/C(=C\C#N)/N | C4H6N2
reactant | (2-methylphenyl)hydrazine hydrochloride | 23.1 mmol, 3.67 g | Cl.CC1=C(C=CC=C1)NN
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | hydrochloric acid | 1 M, 20 mL | Cl | ClH
product | 3-methyl-1-(2-methylphenyl)-1H-pyrazol-5-amine | 3.97 g, 87% | CC1=NN(C(=C1)N)C1=C(C=CC=C1)C | C11H13N3
